US06982278B2
A solution of 2-(4-bromophenyl)-5-methyl-4-oxazoleacetic acid (39.1 g, 0.13 mol) in dry THF (175 mL) was treated dropwise with borane-THF complex (227 mL of a 1.0 M solution in THF, 1.3 mol) over 2 h (reaction temperature to 35° C.). After stirring 2 h at rt under N2, the reaction was quenched with slow addition of methanol (60 mL) and stirred overnight at rt. The reaction was diluted with 1 N NaOH (50 mL) and extracted with CH2Cl2 (2×200 mL). The organic layer was washed with H2O (3×100 mL), dried (MgSO4), and the solvent removed in vacuo to give 38.7 g of crude product that was recrystallized from toluene (200 mL, wash solid with cold hexanes) to give 26.9 g (72%) of 2-(4-bromophenyl)-5-methyl-4-oxazoleethanol as a white powder: Rf=0.37 in 10% MeOH/CH2Cl2; 1H NMR (500 MHz, CDCl3) δ 7.84-7.82 (m, 2H), 7.57-7.55 (m, 2H), 3.91 (q, J=5.5 Hz, 2H), 3.14 (t, J=6.0 Hz, OH), 2.72 (t, J=5.5 Hz, 2H), 2.33 (s, 3H); 13C (125 MHz, CDCl3) δ 158.7, 144.5, 134.2, 131.9, 127.4, 126.4, 124.3, 61.8, 28.1, 10.1; IR (KBr) 3293, 2948, 1642, 15985, 1480, 1472, 1401, 1053, 1003, 836, 734 cm−1; Anal. Calc'd for C12H12BrNO2: C, 51.09; H, 4.29; N, 4.96; Br, 28.32. Found C, 51.31; H, 4.06; N, 4.90; Br, 28.19.

reactant | 2-(4-bromophenyl)-5-methyl-4-oxazoleacetic acid | 0.13 mol, 39.1 g | BrC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)O)C | C12H10BrNO3
solvent | THF | 175 mL | C1CCOC1 | C4H8O
product | 2-(4-bromophenyl)-5-methyl-4-oxazoleethanol | 26.9 g, 72% | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCO)C | C12H12BrNO2
